US06774082B2
A 2.14 g amount of 1,26 ditrityl-1,5,9,18,22,26-hexathia-12,15-dioxahexacosane was dissolved in a mixture of 9.0 ml of triflouroacetic acid and 9.0 ml of methylene chloride. About 0.7 ml of triethylenesilane was added and stirred at room temperature for a half hour. About 100 ml of methylene chloride was added to the mixture and this was washed with 50 ml of water. The organic layer was then dried with magnesium sulfate and filtered. The solvent was evaporated from filtrate and the residue was purified on silica gel using a mixture of methylene chloride and acetone (5:1 v/v). About 620 mg (58%) of 1,5,9,18,22,26-hexathia-12,15-dioxahexacosane was obtained. The preparation scheme is shown below:

reactant | 1,26 ditrityl-1,5,9,18,22,26-hexathia-12,15-dioxahexacosane | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SCCCSCCCSCCOCCOCCSCCCSCCCSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C56H66O2S6
solvent | triflouroacetic acid | 9.0 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 9.0 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1,5,9,18,22,26-hexathia-12,15-dioxahexacosane | 620 mg, 58% | SCCCSCCCSCCOCCOCCSCCCSCCCS | C18H38O2S6
